US06809097B1
A mixture of 2-acetamido-5-chloro-1,8-naphthyridine (357 mg, 1.6 mmol) and 2-fluoro-5-hydroxy-4-methylaniline (200 mg, 1.4 mmol), (prepared as described for the starting material in Example 1), in isopropanol (20 ml) was heated at reflux for 5 hours. The mixture was allowed to cool and the precipitate was collected by filtration, washed with acetone and dried to give 2-acetamido-5-(2-fluoro-5-hydroxy-4-methylanilino)-1,8-naphthyridine hydrochloride (280 mg, 61%).

reactant | 2-acetamido-5-chloro-1,8-naphthyridine | 1.6 mmol, 357 mg | C(C)(=O)NC1=NC2=NC=CC(=C2C=C1)Cl | C10H8ClN3O
reactant | 2-fluoro-5-hydroxy-4-methylaniline | 1.4 mmol, 200 mg | FC1=C(N)C=C(C(=C1)C)O | C7H8FNO
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 2-acetamido-5-(2-fluoro-5-hydroxy-4-methylanilino)-1,8-naphthyridine hydrochloride | 280 mg, 61% | Cl.C(C)(=O)NC1=NC2=NC=CC(=C2C=C1)NC1=C(C=C(C(=C1)O)C)F | InChI=1S/C17H15FN4O2.ClH/c1-9-7-12(18)14(8-15(9)24)21-13-5-6-19-17-11(13)3-4-16(22-17)20-10(2)23;/h3-8,24H,1-2H3,(H2,19,20,21,22,23);1H
